US04113464
Preparation of N-n-Hexyl-N-(1,3-dioxolan-2-ylmethyl)amine
2-Bromomethyl-1,3-dioxolane (20 grams) and n-hexylamine (100 ml) were charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture was heated at a temperature of about 100° C. for a period of about 3 hours. After this time sodium hydroxide (10 grams) dissolved in water (100 ml) was added and the resulting mixture was stirred for a period of about 30 minutes. The reaction mixture was then extracted with ether and the ether solution was separated and dried over magnesium sulfate. The dried solution was filtered and stripped of solvent to yield the desired product N-n-hexyl-N-(1,3-dioxolan-2-ylmethyl)amine as an oil.

reactant | 2-Bromomethyl-1,3-dioxolane | 20 grams | BrCC1OCCO1 | C4H7BrO2
reactant | n-hexylamine | 100 ml | C(CCCCC)N | C6H15N
reactant | sodium hydroxide | 10 grams | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | N-n-hexyl-N-(1,3-dioxolan-2-ylmethyl)amine | C(CCCCC)NCC1OCCO1 | C10H21NO2
